US05254578
trans-3,4-Dihydro-2,2-dimethyl-4-(6-nitro 1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol (Compound No. 1-15)
A solution of 0.164 g of zinc chloride and 0.075 g of sodium cyanoborohydride in 3.3 ml of propanol was added to a solution of 0.326 g of trans-4-amino-3,4-dihydro-2,2-dimethyl-6-trifluoromethylsulfonyl 2H-1-benzopyran-3-ol (prepared from its hydrochloride prepared as described in Preparation 9) and 0.224 g of methyl 2-formyl-5-nitrobenzoate in 3.3 ml of propanol, and the resulting mixture was heated under reflux in an oil bath kept at 140° C. for 1.5 hours. At the end of this time, the reaction mixture was diluted with 150 ml of ethyl acetate, and the resulting solution was washed with 1N aqueous hydrochloric acid, with water, with a saturated aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order. The mixture was then dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The resulting residue was recrystallized from a mixture of ethyl acetate and hexane to give 0.424 g of the title compound, melting at 264°-266° C.

reactant | sodium cyanoborohydride | 0.075 g | C(#N)[BH3-].[Na+]
reactant | trans-4-amino-3,4-dihydro-2,2-dimethyl-6-trifluoromethylsulfonyl 2H-1-benzopyran-3-ol | 0.326 g | N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)S(=O)(=O)C(F)(F)F)(C)C)O | C12H14F3NO4S
reactant | methyl 2-formyl-5-nitrobenzoate | 0.224 g | C(=O)C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C9H7NO5
solvent | propanol | 3.3 ml | C(CC)O | C3H8O
solvent | propanol | 3.3 ml | C(CC)O | C3H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc chloride | 0.164 g | [Cl-].[Zn+2].[Cl-]
product | trans-3,4-Dihydro-2,2-dimethyl-4-(6-nitro 1-oxoisoindolin-2-yl)-6-trifluoromethylsulfonyl-2H-1-benzopyran-3-ol | 0.424 g | CC1(OC2=C([C@H]([C@@H]1O)N1C(C3=CC(=CC=C3C1)[N+](=O)[O-])=O)C=C(C=C2)S(=O)(=O)C(F)(F)F)C | C20H17F3N2O7S
